US04587346
2-(2-Hydroxy-3-octyl-5-methylphenyl)-2H-benzotriazole
In a flask fitted with an nitrogen blanket, stirrer, reflux condenser and addition funnel, 225 grams of 2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole, 65 ml of methanesulfonic acid and 156 ml of 1-octene are heated at 120° C. for a six-hour period. Throughout said period another 467 ml of 1-octene is added to the reaction mixture. The mixture is then cooled and extracted with two 200 ml portions of methanolic potassium hydroxide solution (40 grams potassium hydroxide in 100 ml of methanol). The extracts are washed with 1×400 ml and then with 4×200 ml of heptane. Water (200 ml) is added to the heptane extracts and the upper heptane layer is separated, washed with 5×200 ml of aqueous methanol (methanol 2:water 1). The washed heptane layer is dried over anhydrous magnesium sulfate and treated with 1×10 grams and then 1×5 grams of an acidic absorbent clay (FILTROL 13). After removal of the clay absorbent, the heptane solution is vacuum stripped at 110° C./2 mm to give 23 grams of the above-named product as a yellow liquid.

reactant | 2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole | 225 grams | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C13H11N3O
reactant | methanesulfonic acid | 65 ml | CS(=O)(=O)O | CH4O3S
reactant | 1-octene | 156 ml | C=CCCCCCC | C8H16
reactant | 1-octene | 467 ml | C=CCCCCCC | C8H16
product | 2-(2-Hydroxy-3-octyl-5-methylphenyl)-2H-benzotriazole | 23 grams | OC1=C(C=C(C=C1CCCCCCCC)C)N1N=C2C(=N1)C=CC=C2 | C21H27N3O
